US05210247
A solution containing 294 g (2 Mol) of 1,4-dichlorobenzene in 500 ml of anhydrous tetrahydrofuran was added dropwise at 80° C. under nitrogen over a period of 110 minutes to a stirred suspension of 48.6 g (2.0 Mol) of magnesium turnings. The mixture was subsequently heated at 80° to 84° C. for an additional 2 hours, then decanted off from the excess magnesium. The resultant solution of Grignard compound was added dropwise at 80° C. over a period of 30 minutes to a stirred solution containing 194 g (1.8 Mol) of 6-bromo-1-hexene (commercially available from Fluka GmbH, D-7910 Neu-Ulm) in 200 ml of tetrahydrofuran. The mixture was then stirred at 80° for an additional four hours and poured onto ice. The mixture was acidified using hydrochloric acid and extracted three times using a 1:1 mixture of diethyl ether/methyl tert-butyl ether, and the ether fractions were stirred with activated charcoal and dried over sodium sulfate. After the filtrate had been evaporated, the residue was fractionated under reduced pressure. About 156 g (corresponding to a yield of 40 percent of theory) of 4-(5-hexenyl)-1-chlorobenzene were obtained at a pressure of 13 hPa and at a temperature of 116° to 118° C. 4-(4-pentenyl)-1-chlorobenzene (b.p. 102° to 105° C. at 13 hPa), 4-(11-dodecenyl)-1-chlorobenzene (b.p. 147° to 150° at 0.2 hPa) and 4-(8-nonenyl)-1-chlorobenzene (b.p. 87° C. at 0.3 hPa) can also be prepared in the same manner.

reactant | 1,4-dichlorobenzene | 2 Mol, 294 g | ClC1=CC=C(C=C1)Cl | C6H4Cl2
reactant | magnesium | 2.0 Mol, 48.6 g | [Mg] | Mg
reactant | 6-bromo-1-hexene | 1.8 Mol, 194 g | BrCCCCC=C | C6H11Br
reactant | Neu | OC(=O)C1(O)C[C@H](O)[C@@H](N)[C@@H](O1)[C@H](O)[C@H](O)CO | C9H17NO8
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 4-(5-hexenyl)-1-chlorobenzene | yield of 40 percent | C(CCCC=C)C1=CC=C(C=C1)Cl | C12H15Cl
